US08247576B2
12A. 3-(4-Bromo-phenyl)-3-(4-chloro-phenyl)-propionamide
A solution of 3-(4-Bromo-phenyl)-3-(4-chloro-phenyl)-propionic acid* (0.25 g, 0.74 mmol) and 1,1′-carbonyldiimidazole (0.24 g, 1.47 mmol) in dichloromethane was stirred for 45 minutes before the addition of ammonia (2M solution in methanol, 3.68 ml, 7.36 mmol). The reaction mixture was stirred for 2 hours, solvent removed under reduced pressure and residue was purified over flash silica chromatography eluting with ethyl acetate/petroleum ether (1:4) to afford the title compound (0.091 g, 36% yield). LC/MS: (PS-A2) Rt 3.08 [M+H]+ 339.93.

reactant | 3-(4-Bromo-phenyl)-3-(4-chloro-phenyl)-propionic acid | BrC1=CC=C(C=C1)C(CC(=O)O)C1=CC=C(C=C1)Cl | C15H12BrClO2
reactant | 1,1′-carbonyldiimidazole | 1.47 mmol, 0.24 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ammonia | 7.36 mmol, 2M, 3.68 ml | N | H3N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-(4-Bromo-phenyl)-3-(4-chloro-phenyl)-propionamide | 0.091 g, 36% yield | BrC1=CC=C(C=C1)C(CC(=O)N)C1=CC=C(C=C1)Cl | C15H13BrClNO
